US06221884B1
N-(5-methoxycarbonylfur-2-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide
Beginning with 7.4 mg (0.029 mMol) 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid and 2-amino-5-methoxycarbonylfuran, 1.3 mg (10%) of the title compound were recovered.

reactant | 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid | 0.029 mMol, 7.4 mg | CN(C1CCC=2NC3=CC=C(C=C3C2C1)C(=O)O)C | C15H18N2O2
reactant | 2-amino-5-methoxycarbonylfuran | NC=1OC(=CC1)C(=O)OC | C6H7NO3
product | N-(5-methoxycarbonylfur-2-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide | 1.3 mg, 10% | COC(=O)C1=CC=C(O1)NC(=O)C=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C21H23N3O4
